US08791142B2
DIEA (2.0 to 2.2 eq) and HATU (1.0 to 1.1 eq) were added into a solution of the carboxylic acid derivative (1 eq) in anhydrous DMF (4 mL/mmol of carboxylic acid derivative) cooled at 0° C. The resulting mixture was stirred at 0° C. for a period of 5 to 30 minutes. Then the amidoxime derivative (1.0 to 1.2 eq) was added neat or as a DMF solution. The resulting mixture was stirred at 0° C. or RT for a period of 30 minutes to 2 hours. The reaction mixture was diluted with an adequate solvent, such as Et2O, MTBE or EtOAc, and then washed with water and brine. The aqueous layers were extracted once. The organic layers were combined, dried (MgSO4 or Na2SO4) and the solvents were removed under reduced pressure. The residue was taken up with toluene (6 mL/mmol of carboxylic acid derivative) and pyridine (2 mL/mmol of carboxylic acid derivative). The resulting mixture was heated at a temperature between 80° C. to reflux for a period of 12 to 72 hours. The reaction mixture was diluted with an adequate solvent, such as Et2O, MTBE or EtOAc, and then washed with water and brine. The aqueous layers were extracted once. The organic layers were combined, dried (MgSO4 or Na2SO4) and the solvents were evaporated under reduced pressure. Purification by flash chromatography or precipitation gave the expected oxadiazole derivative.

reactant | DIEA | 2.0 to 2.2 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.0 to 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
solvent | MTBE | CC(C)(C)OC | C5H12O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | oxadiazole | C1CN2CC1C(C2)C3=NC(=NO3)N | C8H12N4O
